US07635699B2
2-Aminopyrimidine (5 g, 52.6 mmol) and bromoethyl pyruvate (90%, 7.35 mL, 52.6 mmol) were dissolved in ethanol (80 mL) and the reaction was heated to 75° C. for 16 h. The reaction was concentrated under reduced pressure and diluted with CH2Cl2 and sat aq NaHCO3. The organic layer was washed with sat aq NaHCO3 (2×) and the aq layers were extracted with CH2Cl2 (3×). The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. The resulting brown oil was suspended in cold CH2Cl2 and filtered. The filter cake was washed with cold CH2Cl2 to obtain ethyl imidazo[1,2-a]pyrimidine-2-carboxylate (3 g, 30%) as a light yellow oil. The mother liquor contains a mixture of ethyl imidazo[1,2-a]pyrimidine-2-carboxylate and ethyl imidazo[1,2-a]pyrimidine-3-carboxylate (6 g, 60%) in the form of thick, black oil. This black oil was first purified by silica gel chromatography followed by recrystallization from EtOAc to obtain ethyl imidazo[1,2-a]pyrimidine-3-carboxylate (2 g, 20%).

reactant | 2-Aminopyrimidine | 52.6 mmol, 5 g | NC1=NC=CC=N1 | C4H5N3
reactant | bromoethyl pyruvate | 52.6 mmol, 7.35 mL | C(C(=O)C)(=O)OCCBr | C5H7BrO3
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | ethyl imidazo[1,2-a]pyrimidine-2-carboxylate | 3 g, 30% | N=1C(=CN2C1N=CC=C2)C(=O)OCC | C9H9N3O2
